US06713474B2
A mixture of trans-4-chloro-5-(3-methoxy-4-phenoxyphenyl)-7-[4-(methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidine (220 mg, 0.414 mmol) in 1,4-dioxane (20 mL) and 30% aqueous ammonium hydroxide (20 mL) was heated at 120° C. in a sealed tube for 18 hours then cooled, concentrated under reduced pressure and purified by preparative RP-HPLC to give trans-5-(3-methoxy-4-phenoxyphenyl)-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine acetate (122 mg, 58%): 1H NMR (DMSO-d6, 400 MHz) δ 8.14(s, 1H), 7.49(s, 1H), 7.32(t, 2H), 7.22(s, 1H), 7.10(d, 1H), 7.05(m, 2H), 6.92(d, 2H), 6.2(bs, 2H), 4.56(m, 1H), 3.79 (s, 3H), 2.2-2.6(m, 9H), 2.15(s, 3H), 1.8-2.05(m, 6H), 1.90(s, 6H), 1.45(m, 2H); MS MH-513.4; RP-HPLC (Hypersil HS, 5 μm, 100 A 4.6×250 mm; 25%-100% acetonitrile—0.05 M ammonium acetate over 10 min, 1 ml/min) tr 14.77 min.

reactant | trans-4-chloro-5-(3-methoxy-4-phenoxyphenyl)-7-[4-(methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidine | 0.414 mmol, 220 mg | ClC=1C2=C(N=CN1)N(C=C2C2=CC(=C(C=C2)OC2=CC=CC=C2)OC)[C@@H]2CC[C@H](CC2)N2C(CNCC2)C | C30H34ClN5O2
reactant | ammonium hydroxide | 20 mL | [OH-].[NH4+]
solvent | 1,4-dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | trans-5-(3-methoxy-4-phenoxyphenyl)-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-4-amine acetate | 122 mg, 58% | C(C)(=O)O.COC=1C=C(C=CC1OC1=CC=CC=C1)C1=CN(C=2N=CN=C(C21)N)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | InChI=1S/C30H36N6O2.C2H4O2/c1-34-14-16-35(17-15-34)22-9-11-23(12-10-22)36-19-25(28-29(31)32-20-33-30(28)36)21-8-13-26(27(18-21)37-2)38-24-6-4-3-5-7-24;1-2(3)4/h3-8,13,18-20,22-23H,9-12,14-17H2,1-2H3,(H2,31,32,33);1H3,(H,3,4)/t22-,23-;
